US09328096B2
Ethyl 5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylate
Pyridine (12.9 mL, 161 mmol) was added to a solution of ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate (9.32 g, 40.3 mmol) and 5-bromo-2-chlorobenzoic acid (10.4 g, 44.3 mmol) in 2-methyl-tetrahydrofuran (100 mL). The reaction was heated to 85° C. before the addition of propylphosphonic anhydride (38.5 mL, 60.4 mmol, 50% solution in EtOAc) drop-wise. The reaction was heated at 85° C. for 16 hours before cooling to room temperature. The organic solution was washed with saturated aqueous sodium hydrogen carbonate solution (3×25 mL), saturated brine (30 mL) and concentrated in vacuo. The resulting solid was triturated with TBME (5×50 mL) to afford the title compound (13.7 g, 76%).

reactant | Pyridine | 161 mmol, 12.9 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate | 40.3 mmol, 9.32 g | NC1=CC(=NN1C1=CC=CC=C1)C(=O)OCC | C12H13N3O2
reactant | 5-bromo-2-chlorobenzoic acid | 44.3 mmol, 10.4 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | propylphosphonic anhydride | 60.4 mmol, 38.5 mL | CCCP(=O)=O | C3H7O2P
solvent | 2-methyl-tetrahydrofuran | 100 mL | CC1OCCC1 | C5H10O
product | Ethyl 5-(5-bromo-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxylate | 13.7 g, 76% | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)OCC)C1)Cl | C19H15BrClN3O3
